US09422271B2
A mixture of 5-bromo-2-phenylpyrimidin-4-ol (1.67 g, 6.67 mmol, 1.0 equiv.) and POBr3 (100 g) was heated at 100° C. for 8 hours. The solution was cooled down to 55° C. and poured into ice-water while stirring vigorously. The mixture was maintained below 25° C. during the quench. The reaction mixture was extracted with CH2Cl2. The combined organic layer was washed (cold water), dried (Na2SO4), evaporated and the residue was purified by silica gel chromatography (hexane) to afford 4,5-dibromo-2-phenyl pyrimidine (1.3 g, 70.5%). LC-MS (m/z): 315.1 [M+H]+. 1H NMR (400 MHz, CDCl3): δ 7.47-7.50 (m, 3H), 8.37-8.40 (m, 2H), 8.91 (s, 1H).

reactant | 5-bromo-2-phenylpyrimidin-4-ol | 6.67 mmol, 1.67 g, 1.0 equiv. | BrC=1C(=NC(=NC1)C1=CC=CC=C1)O | C10H7BrN2O
reactant | POBr3 | 100 g | P(=O)(Br)(Br)Br | Br3OP
product | 4,5-dibromo-2-phenyl pyrimidine | 1.3 g, 70.5% | BrC1=NC(=NC=C1Br)C1=CC=CC=C1 | C10H6Br2N2
